US08048909B2
[5-Phenyl-1-(2-thienylsulfonyl)-1H-pyrrol-3-yl]methanol
A solution (20 mL) of ethyl 5-phenyl-1-(2-thienylsulfonyl)-1H-pyrrole-3-carboxylate (650 mg) in tetrahydrofuran was cooled to −70° C., and a 1.5 mol/L solution (5 mL) of diisobutylaluminum hydride in toluene was added dropwise by small portions. The mixture was further stirred at −70° C. for 1 hr, 1 mol/L hydrochloric acid (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=7:3→1:1) to give the title compound as a pale-red oil (yield 480 mg, 84%).

reactant | ethyl 5-phenyl-1-(2-thienylsulfonyl)-1H-pyrrole-3-carboxylate | 20 mL, 650 mg | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C=1SC=CC1)C(=O)OCC | C17H15NO4S2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [5-Phenyl-1-(2-thienylsulfonyl)-1H-pyrrol-3-yl]methanol | yield 480 mg, 84% | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C=1SC=CC1)CO | C15H13NO3S2
